Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Morphine / Latex
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
See nightfloat H&P for full details.  Briefly, the patient is a 
___ female with PMHx significant for sickle cell anemia, PE x 3 
(on coumadin) who presents to hospital with chest and bilateral 
upper extremity pain.  She reports the pain is consistent with 
her prior pain crises.  She was recently admitted to ___ for a 
PE last week (left on ___.  She was discharged on lovenox and 
coumadin.

She reports that on ___ she developed sudden onset of chest 
and upper extremity pain.  Described as stabbing in nature 
located near the sternum.  Rated at an 8.5/10.  Constant- 
radiates to left arm.  Relieved by sitting in one position.  She 
denies any deep chest pressure, shortness of breath or syncope.  


In the emergency department initial vital signs were 98.4, 74, 
136/75, 16, 99. CXR was clear. CVL was placed for access. She 
was given IV dilaudid 1mg q1H, benadryl 50mg IV, and zofran. IV 
fluids were started. Transfer vital signs were: 98.6, 84, 
118/75, 16, 100%RA.  Upon transfer, she was stable satting 95% 
on RA.  She did not have any major complaints at that time.  

Review of systems is otherwise negative.  

POE Safety Alert: "Ms. ___ has been recently admitted to 
multiple area hospitals, and between ___ and ___ has spent 
only a few days outside the hospital. She is very healthcare 
system savvy and per psychiatry has a facticious disorder in 
addition to her real sickle cell disease. See D/C Summary from 
___ for more details.  
Please contact treaters at ___ Partial Program ___ 
when admitted. It would be helpful to set up meeting with them 
to discuss treatment direction."  
 
Past Medical History:
1) Sickle cell (HbSS) disease with frequent hospitalizations 
with pain crises discharge just 2 days prior for pain crisis.  
2) Pulmonary embolus in ___  
3) ? CVA in ___  
4) s/p acute chest syndrome requiring intubation in ___  
5) Asthma  
6) Borderline personality disorder/PTSD with history of suicidal 
ideation, past psychiatric hospitalizations  
7) Transfusion-related Hepatitis C  
8) s/p cholecystectomy  
9) Hx of seizure disorder-details unknown  
10) Hx of numerous port-a-cath placements  
11) Hx of coag-negative staph and MSSA line infections  
12) Hyperprolactinemia  
13) Lymphadenopathy L anterior cervical and R inguinal noted on 
last admission -- thought to be due to viral illness, with 
instructions to f/u with her PCP.
 
Social History:
___
Family History:
-mother ___ sickle trait
-father ___ has sickle cell anemia
also fam hx of HTN, HL, DM type II, blindness

 
Physical Exam:
GENERAL: Pleasant, well appearing young woman in NAD  
HEENT: Normocephalic, atraumatic. No conjunctival pallor. No 
scleral icterus. PERRLA/EOMI. MMM. OP clear.  
NECK: left submandibular LAD (LN approx 3-4cm)- tender to 
palpation  
CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, 
rubs or ___.  
LUNGS: CTAB, good air movement biaterally.  
ABDOMEN: NABS. Soft, NT, ND. No HSM  
EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior 
tibial pulses. Posterior to left deltoid appears to have LAD 
versus fat pad  
SKIN: No rashes/lesions, ecchymoses.  
NEURO: A&Ox3. Appropriate. CN ___ grossly intact. Preserved 
sensation throughout. ___ strength throughout. ___ reflexes, 
equal ___. Normal coordination. Gait assessment deferred  
PSYCH: Listens and responds to questions appropriately  
 
Pertinent Results:
___ 08:45PM BLOOD WBC-5.3 RBC-2.08* Hgb-8.4* Hct-25.4* 
MCV-122* MCH-40.5* MCHC-33.1 RDW-21.9* Plt ___
___ 05:45AM BLOOD WBC-5.6 RBC-2.00* Hgb-7.9* Hct-24.3* 
MCV-121* MCH-39.5* MCHC-32.5 RDW-21.7* Plt ___
___ 05:54AM BLOOD WBC-8.2 RBC-1.44*# Hgb-5.9*# Hct-17.6*# 
MCV-123* MCH-41.3* MCHC-33.7 RDW-21.0* Plt ___
___ 12:13PM BLOOD WBC-6.7 RBC-1.93*# Hgb-7.9*# Hct-23.4*# 
MCV-121* MCH-41.0* MCHC-33.8 RDW-20.8* Plt ___
___ 06:04AM BLOOD WBC-7.3 RBC-1.76* Hgb-7.3* Hct-22.0* 
MCV-125* MCH-41.4* MCHC-33.1 RDW-19.6* Plt ___
___ 04:51AM BLOOD WBC-7.9 RBC-1.75* Hgb-7.1* Hct-21.4* 
MCV-123* MCH-40.8* MCHC-33.2 RDW-20.2* Plt ___
___ 06:13AM BLOOD WBC-8.6 RBC-1.78* Hgb-7.4* Hct-22.1* 
MCV-124* MCH-41.5* MCHC-33.4 RDW-19.0* Plt ___
___ 05:40AM BLOOD WBC-8.1 RBC-1.77* Hgb-7.4* Hct-22.0* 
MCV-125* MCH-41.7* MCHC-33.4 RDW-18.7* Plt ___
___ 06:12AM BLOOD WBC-8.9 RBC-1.86* Hgb-7.2* Hct-22.6* 
MCV-121* MCH-38.9* MCHC-32.0 RDW-19.4* Plt ___
___ 05:53AM BLOOD WBC-8.5 RBC-1.71* Hgb-6.9* Hct-20.8* 
MCV-122* MCH-40.5* MCHC-33.3 RDW-19.9* Plt ___
___ 03:17PM BLOOD Hct-22.7*
___ 06:07AM BLOOD WBC-9.0 RBC-1.77* Hgb-7.0* Hct-21.7* 
MCV-123* MCH-39.9* MCHC-32.5 RDW-19.7* Plt ___
___ 06:08AM BLOOD WBC-9.9 RBC-1.66* Hgb-6.8* Hct-20.7* 
MCV-125* MCH-41.1* MCHC-32.8 RDW-18.6* Plt ___
___ 11:00AM BLOOD Hct-25.1*
___ 05:42AM BLOOD WBC-8.0 RBC-1.77* Hgb-7.4* Hct-22.1* 
MCV-125* MCH-41.6* MCHC-33.3 RDW-18.7* Plt ___
___ 05:46AM BLOOD WBC-10.3 RBC-1.71* Hgb-7.0* Hct-21.5* 
MCV-126* MCH-41.1* MCHC-32.8 RDW-18.7* Plt ___
___ 06:25AM BLOOD WBC-9.2 RBC-1.80* Hgb-7.5* Hct-22.6* 
MCV-126* MCH-41.9* MCHC-33.3 RDW-19.0* Plt ___
___ 06:30AM BLOOD WBC-6.2 RBC-1.96* Hgb-8.1* Hct-24.2* 
MCV-124* MCH-41.6* MCHC-33.7 RDW-20.3* Plt ___
___ 06:15AM BLOOD WBC-7.6 RBC-1.74* Hgb-7.3* Hct-21.7* 
MCV-124* MCH-42.0* MCHC-33.9 RDW-19.8* Plt ___
___ 06:09AM BLOOD WBC-8.3 RBC-1.71* Hgb-7.2* Hct-21.1* 
MCV-123* MCH-42.4* MCHC-34.4 RDW-18.1* Plt ___
___ 08:45PM BLOOD Neuts-2* Bands-0 Lymphs-90* Monos-4 Eos-4 
Baso-0 ___ Myelos-0 NRBC-16*
___ 05:54AM BLOOD Neuts-33* Bands-0 Lymphs-55* Monos-3 
Eos-5* Baso-0 Atyps-4* ___ Myelos-0 NRBC-4*
___ 06:04AM BLOOD Neuts-24* Bands-0 Lymphs-64* Monos-2 
Eos-6* Baso-0 Atyps-4* ___ Myelos-0 NRBC-4*
___ 04:51AM BLOOD Neuts-15* Bands-0 Lymphs-79* Monos-4 
Eos-2 Baso-0 ___ Myelos-0 NRBC-4*
___ 06:13AM BLOOD Neuts-23.8* Bands-0 Lymphs-66.6* 
Monos-4.3 Eos-4.5* Baso-0.8
___ 05:40AM BLOOD Neuts-19.0* Bands-0 Lymphs-72.9* 
Monos-3.1 Eos-4.0 Baso-1.0
___ 06:12AM BLOOD Neuts-16* Bands-0 Lymphs-72* Monos-7 
Eos-3 Baso-1 ___ Myelos-1* NRBC-2*
___ 06:07AM BLOOD Neuts-23* Bands-0 Lymphs-69* Monos-6 
Eos-1 Baso-1 ___ Myelos-0 NRBC-7*
___ 06:08AM BLOOD Neuts-8* Bands-0 Lymphs-86* Monos-4 Eos-2 
Baso-0 ___ Myelos-0 NRBC-2*
___ 05:42AM BLOOD Neuts-32* Bands-1 Lymphs-50* Monos-6 
Eos-5* Baso-0 Atyps-5* ___ Myelos-1* NRBC-7*
___ 05:46AM BLOOD Neuts-39* Bands-1 Lymphs-43* Monos-8 
Eos-6* Baso-1 Atyps-2* ___ Myelos-0 NRBC-8*
___ 05:45AM BLOOD ___ PTT-35.2* ___
___ 05:54AM BLOOD ___ PTT-31.2 ___
___ 06:04AM BLOOD ___ PTT-28.6 ___
___ 04:51AM BLOOD ___ PTT-83.9* ___
___ 06:13AM BLOOD ___ PTT-120.3* ___
___ 05:40AM BLOOD ___ PTT-70.5* ___
___ 06:12AM BLOOD ___ PTT-77.7* ___
___ 05:53AM BLOOD ___ PTT-66.3* ___
___ 06:07AM BLOOD ___ PTT-54.9* ___
___ 03:28PM BLOOD ___ PTT-53.7* ___
___ 06:08AM BLOOD ___ PTT-67.3* ___
___ 11:00AM BLOOD ___ PTT-55.3* ___
___ 05:42AM BLOOD ___ PTT-29.9 ___
___ 05:46AM BLOOD ___ PTT-34.6 ___
___ 06:25AM BLOOD ___ PTT-52.1* ___
___ 10:30AM BLOOD ___ PTT-36.8* ___
___ 06:15AM BLOOD ___ PTT-36.7* ___
___ 06:09AM BLOOD ___ PTT-38.0* ___
___ 08:45PM BLOOD ___ ___
___ 05:54AM BLOOD ___ ___
___ 06:04AM BLOOD ___ ___
___ 04:51AM BLOOD ___ ___
___ 06:13AM BLOOD ___ ___
___ 05:40AM BLOOD ___ ___
___ 06:12AM BLOOD ___ ___
___ 06:07AM BLOOD ___ ___
___ 06:08AM BLOOD ___ ___
___ 05:42AM BLOOD ___ ___
___ 05:46AM BLOOD ___ ___
___ 06:25AM BLOOD ___ ___
___ 06:30AM BLOOD ___ ___
___ 10:45PM BLOOD Ret Man-27.9*
___ 05:45AM BLOOD Glucose-81 UreaN-5* Creat-0.4 Na-138 
K-4.6 Cl-108 HCO3-25 AnGap-10
___ 06:12AM BLOOD Glucose-102 UreaN-3* Creat-0.3* Na-143 
K-3.6 Cl-111* HCO3-25 AnGap-11
___ 05:42AM BLOOD Glucose-101 UreaN-4* Creat-0.4 Na-139 
K-3.5 Cl-105 HCO3-29 AnGap-9
___ 06:15AM BLOOD Glucose-88 UreaN-5* Creat-0.4 Na-141 
K-4.1 Cl-108 HCO3-27 AnGap-10
___ 06:09AM BLOOD Glucose-91 UreaN-5* Creat-0.3* Na-141 
K-4.2 Cl-109* HCO3-27 AnGap-9
___ 06:07AM BLOOD ALT-47* AST-56* AlkPhos-181* TotBili-0.7
___ 05:42AM BLOOD ALT-34 AST-43* AlkPhos-177* TotBili-0.7
___ 05:45AM BLOOD Calcium-8.8 Phos-3.4 Mg-1.9
___ 06:15AM BLOOD Calcium-9.0 Phos-3.5 Mg-2.0
___ 05:42AM BLOOD Albumin-3.6 Calcium-8.5 Phos-3.1 Mg-1.6
___ 11:57PM BLOOD HIV Ab-NEGATIVE
___ 05:42AM BLOOD Phenyto-8.9*

Chest X-ray (___)- IMPRESSION: No acute cardiopulmonary 
abnormality.

CT Torso (___)- 
IMPRESSION:   
1. Stable right lower lobe emboli, compared to ___. 
No new 
filling defect to suggest acute emboli. 
  
2. Unchanged lung parenchyma scarring. 
  
3. Multiple stable prominent mesenteric lymph nodes mostly 
clustered around 
right lower quadrant in the pericecal region, also seen in ___. 

  
4. Atrophic shrunken spleen and hyperdense liver consistent with 
sickle cell 
disease. 
  
5. Right ovarian cyst measuring more than 3 cm. Followup 
ultrasound in six 
weeks to document resolution. 
  
6. Stable mild intra and extra hepatic biliary duct dilatation 
due to 
cholecystectomy. 

Chest X-ray (___)- 
FINDINGS: 
PICC terminates in the superior vena cava. The heart is mildly 
enlarged.  
Lungs are clear. Cardiomediastinal silhouette is unremarkable. 

 
Brief Hospital Course:
# Chest, arm pain: Patient has a history of this pain.  Current 
situation is consistent with previous pain crises.  There was no 
evidence of acute chest or PE on physical exam (pt is breathing 
comfortably on room air, no signs of respiratory distress).  The 
patient was continously hydrated with NS while inpatient.  She 
was monitored regularly for signs of fluid overload.  Her home 
pain medications of dilaudid 4mg and MS contin 60mg q8hrs were 
continued as an in-patient.  Patient only complained about pain 
when asked and regularly would not require doses for >12hrs. She 
was often demanding when it came to her medication regimen with 
the nurses.  ___ MS contin was switched to morphine ___ at an 
equivalent dose ( but she was discharged on MS contin given that 
is her home regimen).  In addition, all pain medications were 
crushed given that the patient was caught cheeking some 
medications during this admission.  Pain remained under control 
throughout her stay here.   
  
# Pulmonary embolus in ___- Patient has 
history of PE and DVT, including recently diagnosed PE at ___ in 
___.  Given that, she has been on coumadin as an 
outpatient and is followed at ___ clinic.  She has a 
history of being non-compliant with her coumadin.  Her INR on 
admission was 3.7 so her coumadin was initially held.  After 2 
days, INR dropped to 1.3 so coumadin was restarted at home dose 
of 5mg.  Her INR intially trended up (to 1.6) but then began 
trending down to 1.1.  Her dose was increased to 7.5mg daily.  
Despite this, INR kept trending down so the nurses began 
checking the ___ mouth to see if she had been cheeking her 
medications, which she was.  In addition, the patient herself 
reported instances where she vomited up medications after they 
were administered.  After this was discovered, all the ___ 
medications were crushed.  In addition, she was sent to sit by 
the nurses station for 1hr after she received her 4pm 
medications.  After this protocol was initiated, her INR began 
to trend up and was 2.2 on discharge.  She never had any 
symptoms associated with PE.  In addition, CT chest was 
performed while patient was here which did not show any new PE.  
Upon discharge, she was re-started on her home dose of 5mg of 
coumadin daily.
  
# Sickle cell: Patient was continued on her home dose of 
hydroxyurea.  Her pain crises resolved and she had no other 
signs of bleed/new clot on exam or imaging.  
 
# LFT abnormalities:  Patient supposedly has a diagnosis of 
Hepatitis C.  Her ALT, AST, Alk phos are all chronically 
elevated.  They trended down while she was admitted here.  She 
denied any confusion, abdominal pain, jaundice, itching or 
change in stool color.  
  
# Lymphadenopathy: The patient reported a painful submandibular 
lump for the previous two months.  It has been imaged before (in 
___ which showed soft tissue edema and and no abscess or 
enlarged lymphnodes.  Monospot was negative.  HIV consent 
received and sent- also came back negative.  It decreased in 
size throughout the hospitalization and was minimally tender to 
palpation.
  
# Borderline neutropenia with lymphocytosis:  On admission, 
patient was found to have 2 neutrophils on differential.  
Heme/Onc was consulted.  She was placed on neutropenic 
precautions and had daily ANC's checked.  They continued to 
trend up and eventually reached >4000.  Neutropenic precautions 
were discontinued.  Patient remained afebrile. 

# Hypotension- Patient did get triggered on ___ for 
hypotension.  She was found to have SBP of 74 while nurse was 
checking AM vitals.  Patient was asymptomatic and responded 
immediately to IV fluids (NS at 150mls/hr).  SBP check after 
resuming IV fluids was 110.  She was kept on IV fluids at 
100mls/hr until a few days prior to discharge.  After IV fluids 
were discontinued, her SBP stayed in the 110s.  Patient remained 
asymptomatic.  She was ambulating daily before discharge with no 
signs of orthostasis. Upon discharge, hypotension was completely 
resolved.
  
# Asthma: Continued on home dose of albuterol prn.  No doses 
were needed.  
  
# H/o PTSD: Continued on home dose of mirtazapine 7.5mg qhs and 
citalopram 30 mg daily  
  
# H/o seizure disorder: Continued on gabapentin and phenytoin.  
No seizure while patient hospitalized. 
  
FEN: High fiber diet  
  
PPX:  
-DVT ppx with coumadin
-Bowel regimen senna, colace  
-Pain management as above  
  
ACCESS: PICC line in right extremity
  
CODE STATUS: Full  
 
Medications on Admission:
Mirtazapine 7.5mg qhs  
Citalopram 30 mg daily  
Senna prn  
MS ___ 60 mg q8h  
Hydroxyurea 1000 mg daily  
Albuterol prn)  
Promethazine ___ q6h prn nausea mg  
Hydromorphone 8 mg q4h prn pain  
Diphenhydramine 25 mg q4-6h prn itching  
Ibuprofen 600 mg q6h prn pain  
Hydroxyzine prn itching  
Colace 100 mg BID  
Warfarin 5 mg qhs  
Phenytoin Sodium Extended 200mg BID  
Gabapentin 300 mg qhs  
Folic Acid 1 mg daily  
Magnesium Oxide 400 mg daily  
Ranitidine 150 mg BID  
Ondansetron HCl 4 mg q8h prn nausea
 
Discharge Medications:
1. Mirtazapine 15 mg Tablet Sig: 0.5 Tablet PO HS (at bedtime).  

2. Citalopram 20 mg Tablet Sig: 1.5 Tablets PO DAILY (Daily).  
3. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
4. Hydroxyurea 500 mg Capsule Sig: Two (2) Capsule PO DAILY 
(Daily).  
5. Promethazine 25 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for nausea.  
6. Phenytoin Sodium Extended 100 mg Capsule Sig: Two (2) Capsule 
PO BID (2 times a day).  
7. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO HS (at 
bedtime).  
8. Ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
9. Polyvinyl Alcohol-Povidone 1.4-0.6 % Dropperette Sig: ___ 
Drops Ophthalmic TID (3 times a day) as needed for irritation.  
10. Folic Acid 1 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
11. Warfarin 5 mg Tablet Sig: One (1) Tablet PO Once Daily at 4 
___.  
12. Albuterol Sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
Two (2) Puff Inhalation every six (6) hours as needed for 
shortness of breath.  
13. Magnesium Oxide 400 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
14. Ocean Nasal 0.65 % Aerosol, Spray Sig: One (1) spray 
intranasally Nasal every four (4) hours as needed for cold 
symptoms.  
15. Diphenhydramine HCl 25 mg Capsule Sig: One (1) Capsule PO 
Q6H (every 6 hours) as needed for itching.  
16. Ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours) as needed for pain.  
17. Hydroxyzine HCl 50 mg Tablet Sig: One (1) Tablet PO every 
six (6) hours as needed for itching.  
18. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day as 
needed for constipation.  
19. Zofran 4 mg Tablet Sig: One (1) Tablet PO every eight (8) 
hours as needed for nausea.  
20. Morphine 30 mg Tablet Sustained Release Sig: One (1) Tablet 
Sustained Release PO every eight (8) hours as needed for pain: 
hold for sedation, rr<12.  
21. Hydromorphone 4 mg Tablet Sig: One (1) Tablet PO every four 
(4) hours as needed for pain: hold for sedation, rr<12.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:  Pain crisis

Secondary:  Sickle cell disease

 
Discharge Condition:
Good.  Vital signs stable.

 
Discharge Instructions:
You were admitted to the hospital for chest pain.  Upon 
examination, it was determined that this pain was consistent 
with your previous pain crises due to your sickle cell disease.  
While here we gave you constant IV fluids, which you tolerated 
well.  In addition, you received your home regimen of pain 
medications.  Your coumadin was initially held because your INR 
was 3.7 on admission.  We monitored your INR closely and 
restarted your coumadin when it was safe.  While your INR was 
sub-therapeutic, you were started on a heparin drip for 
anti-coagulation.  We had a CT scan performed which did not show 
any new pulmonary embolus.  In addition, your EKG and cardiac 
enzymes did not show any signs of a heart attack.  Your INR 
became therapeutic so your heparin drip was stopped.  You 
tolerated your regular diet well and were able to ambulate 
without difficulty.  Upon discharge, you were stable with no 
complaints.

The following changes were made to your medications:
1.  Your folic acid was increased to 3mg by mouth day
2.  Please resume the rest of your home medications as they are 
prescribed by your primary care physician

___ you experience any sudden shortness of breath, chest pain, 
loss of consciousness, seizures, fevers, or any other medically 
concerning symptoms please contact your primary care physician 
or go to the emergency department
 
Followup Instructions:
___